US05686460
A solution of 95 g (500 mmol) of 4-bromo-2-fluorotoluene in 200 ml of anhydrous ethyl ether is added dropwise to a suspension of 12.2 g (500 mmol) of magnesium turnings covered with anhydrous ethyl ether. When the addition has ended, the mixture is stirred for 30 minutes at room temperature and a solution of 50 g of 4-(benzylthio)benzonitrile in 200 ml of anhydrous tetrahydrofuran is then added dropwise. The ethyl ether is distilled and the mixture is refluxed for 6 hours. After cooling, the mixture is run dropwise into 600 ml of 6N hydrochloric acid solution and the resulting solution is refluxed for 6 hours. After the addition of isopropyl ether, the crystals formed are filtered off and washed with ethanol and then with ethyl ether to give 55.4 g of 3-fluoro-4-methyl-4'-benzylthiobenzophenone in the form of crystals melting at 122° C.

reactant | 4-bromo-2-fluorotoluene | 500 mmol, 95 g | BrC1=CC(=C(C=C1)C)F | C7H6BrF
reactant | magnesium | 500 mmol, 12.2 g | [Mg] | Mg
reactant | 4-(benzylthio)benzonitrile | 50 g | C(C1=CC=CC=C1)SC1=CC=C(C#N)C=C1 | C14H11NS
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-fluoro-4-methyl-4'-benzylthiobenzophenone | 55.4 g | FC=1C=C(C(=S)C2=CC=C(C=C2)CC2=CC=CC=C2)C=CC1C | C21H17FS
